US20010014691A1
Dimethyl(3-(3-pyridyloxy)propyl)amine
The 3-chloro-1-(3-pyridyloxy)propane (2.00 g, 11.65 mmol) was dissolved in methanol (25 mL) and added to a 40 wt % aqueous solution of dimethylamine (50 mL) in a heavy-walled glass pressure-tube apparatus. The tube was sealed and the mixture was stirred and heated at 100° C. (oil bath temperature) for 4 h. After cooling, the mixture was concentrated by rotary evaporation. Saturated NaCl solution (25 mL) was added to the residue. The pH of the solution was adjusted to 6, and the mixture was extracted with ether (3×25 mL) to remove impurities. The aqueous layer was basified to pH 10 with 100% NaOH solution and extracted with chloroform (4×50 mL). The combined chloroform extracts were dried (Na2SO4), filtered, and concentrated to give 1.95 g (92.9%) of an oil.

reactant | 3-chloro-1-(3-pyridyloxy)propane | 11.65 mmol, 2.00 g | ClCCCOC=1C=NC=CC1 | C8H10ClNO
reactant | dimethylamine | 50 mL | CNC | C2H7N
solvent | methanol | 25 mL | CO | CH4O
product | Dimethyl(3-(3-pyridyloxy)propyl)amine | 1.95 g, 92.9% | CN(CCCOC=1C=NC=CC1)C | C10H16N2O
